US06951879B2
In analogy to examples 26.1-26.3, 3-mercaptoanisole and 2,4′-dibromopropiophenone were converted to yield 3-(4-bromo-phenyl)-2-methyl-benzo[b]thiophen-6-ol as colorless amorphous solid, MS: 318 (M, 1Br).

reactant | 3-mercaptoanisole | SC=1C=C(C=CC1)OC | C7H8OS
reactant | 2,4′-dibromopropiophenone | BrC(C(=O)C1=CC=C(C=C1)Br)C | C9H8Br2O
product | 3-(4-bromo-phenyl)-2-methyl-benzo[b]thiophen-6-ol | BrC1=CC=C(C=C1)C=1C2=C(SC1C)C=C(C=C2)O | C15H11BrOS
